US07589232B2
Step a) Formation of N-{4-[(4-chlorophenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)cyclohexanecarboxamide
The titled compound was prepared following the procedure E using 6-({4-[(4-chlorophenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one and cyclohexanecarbonyl chloride as a yellow oil (79%). HPLC, Rt: 6.01 min (Purity: 98.2%).

reactant | 6-({4-[(4-chlorophenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one | ClC1=CC=C(C=C1)C#CC1=CC=C(CNC2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C25H20ClNO3
reactant | cyclohexanecarbonyl chloride | C1(CCCCC1)C(=O)Cl | C7H11ClO
product | N-{4-[(4-chlorophenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)cyclohexanecarboxamide | ClC1=CC=C(C=C1)C#CC1=CC=C(CN(C(=O)C2CCCCC2)C2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C32H30ClNO4
